US04002600
N,N'-bis-(4-carbomethoxybenzoyl)-m-phenylenediamine
The following are reacted in accordance with the instruction given in Example A: 180 g of terephthalic acid monomethyl ester monochloride (0.9 mol) dissolved in 1.8 liters of benzene, with 48.6 g of m-phenylenediamine (0.45 mol) and 126 ml of triethylamine in a mixture of 450 ml of benzene and 450 ml of acetone.

reactant | terephthalic acid monomethyl ester monochloride | 0.9 mol, 180 g | [Cl-].COC(C1=CC=C(C(=O)O)C=C1)=O
reactant | m-phenylenediamine | 0.45 mol, 48.6 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | triethylamine | 126 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 1.8 liters | C1=CC=CC=C1 | C6H6
solvent | benzene | 450 ml | C1=CC=CC=C1 | C6H6
solvent | acetone | 450 ml | CC(=O)C | C3H6O
product | N,N'-bis-(4-carbomethoxybenzoyl)-m-phenylenediamine | C(=O)(OC)C1=CC=C(C(=O)NC2=CC(=CC=C2)NC(C2=CC=C(C=C2)C(=O)OC)=O)C=C1 | C24H20N2O6
